US04886806
4.0 g of 3',4',5'-trimethoxyflavone-3-carboxylic acid were added to 200 ml of absolute dichloromethane and reacted with 82 ml of a 1 molar boron tribromide solution in absolute dichloromethane under a nitrogen atmosphere at 0° C. The reaction mixture was stirred for twelve hours during which it was allowed to warm to room temperature. Then, for working up, water was carefully added under ice cooling, then made up to twice the volume with water and intensively stirred. The resulting 3',4',5'-trihydroxyflavone-3-carboxylic acid precipitated and was filtered out. The filter cake was washed with water several times and recrystallized from methanol. 3 g of pure 3',4',5'-trihydroxyflavone-3-carboxylic acid were obtained.

reactant | 3',4',5'-trimethoxyflavone-3-carboxylic acid | 4.0 g | COC=1C=C(C=2OC3=CC=CC=C3C(C2C(=O)O)=O)C=C(C1OC)OC | C19H16O7
reactant | boron tribromide | 1 molar | B(Br)(Br)Br | BBr3
reactant | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 3',4',5'-trihydroxyflavone-3-carboxylic acid | 3 g | OC=1C=C(C=2OC3=CC=CC=C3C(C2C(=O)O)=O)C=C(C1O)O | C16H10O7
